US08067445B2
Step 2: [4-Fluoro-3-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-acetic acid methyl ester
Prepared according to the procedure described in Example 1, Step 2, using the following starting materials: (3-bromo-4-fluoro-phenyl)-acetic acid methyl ester and bis(pinacolato)diboron.

reactant | (3-bromo-4-fluoro-phenyl)-acetic acid methyl ester | COC(CC1=CC(=C(C=C1)F)Br)=O | C9H8BrFO2
reactant | bis(pinacolato)diboron | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
product | [4-Fluoro-3-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-acetic acid methyl ester | COC(CC1=CC(=C(C=C1)F)B1OC(C(O1)(C)C)(C)C)=O | C15H20BFO4
